simulator lang=spectre
global 0

ahdl_include "./dut/sine_vco_idtmod_bound_step.va"

// Feedback testbench for sine_vco_idtmod_bound_step.
// Piecewise vin exercises center_freq + vco_gain*vin instead of a single 28 MHz case.
Vvin (vin 0) vsource type=pwl wave=[0 0.05 350n 0.05 350.1n 0.20 850n 0.20 850.1n 0.55 1.6u 0.55]
XDUT (vin out metric) sine_vco_idtmod_bound_step

tran tran stop=1.6u maxstep=5n
save vin out metric
